Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
morphine
 
Attending: ___.
 
Chief Complaint:
R pleural effusion 
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a pleasant ___ woman with HTN, HLD and recently
diagnosed metastatic breast cancer who presented originally to
the ED 2 days prior for drainage of a located R pleural effusion
- found to have 1 colony GPC growing from pleural fluid and now
representing for empiric antibiotics. 

She reports that a week ago she was diagnosed with breast cancer
on diagnostic mammography after she noted a lump in her R 
breast,
found to be metastatic on output CT which showed both lung and
abdominal involvement. On this CT scan, she was also noted with 
a
R located pleural effusion and was advised by her new oncologist
Dr. ___ at ___ (___) to present to the ED for
thoracentesis. She came to the ___ ED on ___ and underwent
R-sided thoracentesis with 800cc of fluid drained and was
discharged home. Her pleural fluid cultures were significant for
1 colony of GPC on 1 plate and so she was called back to ED per
Dr. ___ for IV antibiotics. 

Since the procedure, she reports some wheezing and mild chest
pain at the site of the thoracentesis - but with no other
symptoms. She does report a cough ongoing for the past ___ 
months
that has been stable with production of clear phlegm. She denies
any fever/chills or malaise. Other than feeling mildly anxious
and overwhelmed by her recent cancer diagnosis she has been
feeling generally well. Denies any chest pain, SOB, abdominal
pain, n/v/d, lightheadness/dizziness, 
numbness/weakness/tingling.

___ female who presents with abnormal labs and cough.
Patient presented to the ED 2 days ago with outpatient CT 
showing
loculated pleural effusion. 800 cc were removed here in the
emergency department sent for analysis. Patient was discharged
given close follow-up with oncology was arranged. Since the
procedure, she has been having some wheezing and pain at the
insertion site, otherwise no new symptoms. She has no fever,
chest pain, difficulty breathing, abdominal pain or malaise.

- In the ED, initial vitals were:
T97.8, HR 88, BP 127/86, 98% on RA 

- Exam was notable for:
General: no acute distress
HEENT: Normal oropharynx, no exudates/erythema
Cardiac: RRR , no chest tenderness
Pulmonary: Decreased breath sounds over the right lung. 
Insertion
site without evidence of drainage or surrounding erythema
Abdominal/GI: Normal bowel sounds, no tenderness or masses
Renal: No CVA tenderness
MSK: No deformities or signs of trauma, no focal deficits noted
Neuro: Sensation intact upper and lower extremities, strength 
___
upper and lower, stable gait, no focal deficits noted, moving 
all
extremities

- Labs were notable for:
BMP: WNL, Cr 0.6 
CBC: WNL 
Lactate: 0.7

Pleural fluid studies from ___: 
   WBC 2753, RBC ___, 2% Polys, 67% Lymphs,
   protein 5.2, glucose 96, LDH 598, maylase 8500, Albumin 3.3 
   gram stain: No PMNs seen
   culture: GPCs 

- Studies were notable for:
CXR pre-thoracentesis ___: No prior available for comparison.
Right base opacity may be due to combination of pleural effusion
and atelectasis and possible consolidation.Increased 
interstitial
markings diffusely bilaterally could represent
lymphangitic carcinomatosis. A prior study would be helpful for
comparison.

CXR ___: 
Right base consolidation, worrisome for pneumonia, with possible
small right
pleural effusion. Background of numerous subcentimeter pulmonary
nodules is
again seen.

- The patient was given: 
IV vancomycin 1g 

Vitals prior to transfer: T98, HR 96, BP 97/70, 99% RA 

On arrival to the floor, patient reports the above. She 
continues
to have mild coughing with phlegm production but denies any CP 
or
SOB. Denies any new fever/chills. 

REVIEW OF SYSTEMS:
==================
Per HPI, otherwise, 10-point review of systems was within normal
limits.

 
Past Medical History:
metastatic breast cancer (see onc history
below) 
HTN 
HLD 
s/p bilateral salpingo-oophorectomy 
s/p CCY 

Onc history: 
___- normal screening mammogram
___ right breast imaging was performed as the
patient noted pain and swelling of the right breast for ___
weeks; imaging showed new skin thickening with increased breast
tissue density with underlying subtle but hypoechoic masses in
the right breast; at the 8 o'clock position 8-9 cm from the
nipple there was an irregular subtle hypoechoic area measuring
1.7 x 1.9 x 1.1 cm; ultrasound-guided biopsy was performed
presumably of the same mass; this showed invasive ductal
carcinoma with apocrine differentiation, grade 2, measuring at
least 0.8 cm; -DCIS; -LVI; ER and PR were both weakly positive
(5% of tumor cells) with weak staining intensity; her2neu
negative (0)
___- CT C/A/P and bone scan showed evidence of extensive
metastatic disease. She has partial right lower lobe collapse
secondary to narrowing from a soft tissue mass, innumerable 
small
metastases throughout all lung segments, multiple right-sided
lower lung zone masses with additional masses in the right upper
lobe and lingula; enlarged mediastinal and hilar nodes, large
partially loculated right pleural effusion, right breast
thickening and enlarged right retropectoral and axillary
adenopathy, numerous osseous metastases with a destructive mass
involving the T1 vertebrae which should be further evaluated 
with
MRI to evaluate for presence of epidural component, extensive
peritoneal carcinomatosis, possible small left adrenal
metastasis; specifically on the bone scan she was noted to have
metastatic disease involving the spine and left iliac bone as
well as left acetabular/pubic bone

 
Social History:
___
Family History:
She has 2 brothers, both unaffected. 
Mom died age ___ of ovarian cancer. She had one sister, died age
___ dx'd with ovarian cancer age ___. Has one cousin on mom's
side, son, he is unaffected. MGM died at ___, unaffected. Not 
sure
of other cancers in maternal lineage. Mom of ___ 
ancestry.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VITALS: T97.9, BP 108/76, HR 76, RR 18, 94% on RA 
GENERAL: Alert and interactive. In no acute distress. Overall
well appearing
HEENT: PERRL,. Sclera anicteric and without injection. MMM.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: R-sided crackles with mildly decreased breath sounds at R
base. L lung CTA 
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.
EXTREMITIES: WWP, No clubbing, cyanosis, or edema. Pulses
DP/Radial 2+ bilaterally.
SKIN: No rashes or lesions
NEUROLOGIC: AOx3. Moving all 4 limbs spontaneously. 

DISCHARGE PHYSICAL EXAM:
VITALS: ___ 0157 Temp: 97.9 PO BP: 108/76 L Lying HR: 76 
RR:
18 O2 sat: 94% O2 delivery: Ra 
GENERAL: Alert and interactive. In no acute distress. Overall
well appearing
HEENT: PERRL,. Sclera anicteric and without injection. MMM.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: R-sided crackles with mildly decreased breath sounds at R
base. L lung CTA 
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.
EXTREMITIES: WWP, No clubbing, cyanosis, or edema. Pulses
DP/Radial 2+ bilaterally.
SKIN: No rashes or lesions
NEUROLOGIC: AOx3. Moving all 4 limbs spontaneously. 
 
Pertinent Results:
ADMISSION LABS:
===============
___ 08:26PM BLOOD WBC-9.6 RBC-4.44 Hgb-13.0 Hct-39.2 MCV-88 
MCH-29.3 MCHC-33.2 RDW-11.5 RDWSD-37.0 Plt ___
___ 08:26PM BLOOD Neuts-63.9 ___ Monos-9.9 Eos-4.5 
Baso-1.0 Im ___ AbsNeut-6.12* AbsLymp-1.95 AbsMono-0.95* 
AbsEos-0.43 AbsBaso-0.10*
___ 08:26PM BLOOD Glucose-98 UreaN-12 Creat-0.6 Na-135 
K-3.6 Cl-93* HCO3-26 AnGap-16
___ 08:26PM BLOOD LD(LDH)-204
___ 08:26PM BLOOD TotProt-6.9 Cholest-128
___ 10:51PM BLOOD Lactate-0.7

DISCHARGE LABS:
===============
___ 06:55AM BLOOD WBC-7.6 RBC-4.51 Hgb-13.3 Hct-39.8 MCV-88 
MCH-29.5 MCHC-33.4 RDW-11.7 RDWSD-37.7 Plt ___
___ 06:55AM BLOOD ___ PTT-27.4 ___
___ 06:55AM BLOOD Glucose-95 UreaN-10 Creat-0.7 Na-137 
K-3.9 Cl-96 HCO3-26 AnGap-15
___ 06:55AM BLOOD Calcium-9.8 Phos-4.4 Mg-1.8

MICROBIOLOGY:
=============
___ 2:07 pm PLEURAL FLUID

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 

   FLUID CULTURE (Preliminary): 
      Reported to and read back by ___ ___ 
10:15AM. 
      STAPHYLOCOCCUS, COAGULASE NEGATIVE.    1 COLONY ON 1 
PLATE. 

   ANAEROBIC CULTURE (Preliminary):    NO ANAEROBES ISOLATED. 

IMAGING:
========
CXR ___
IMPRESSION:  
  
Right base consolidation, worrisome for pneumonia, with possible 
small right  pleural effusion.  Background of numerous 
subcentimeter pulmonary nodules is again seen. 
  

 
Brief Hospital Course:
BRIEF HOSPITAL COURSE:
======================
Ms. ___ is a ___ woman with HTN, HLD and recently diagnosed 
metastatic breast cancer who presented originally to the ED 2 
days prior to admission for drainage of a loculated R pleural 
effusion. She was found to have 1 colony of GPCs growing from 
pleural fluid and was sent to the emergency department for 
further evaluation. While in the emergency department she 
received 1 dose of vancomycin to treat potential infection. She 
also underwent chest x-ray revealing a residual small 
right-sided pleural effusion with possible lower lobe 
opacification. On further review of prior imaging opacities seen 
at right base were felt to represent collapse in the setting of 
metastases which had been previously visualized on CT imaging. 
Culture from pleural fluid further speciated to 
coagulase-negative Staphylococcus, felt to represent 
contaminant. Antibiotics were discontinued. Patient remained 
afebrile throughout admission, had no complaints, lab testing 
without evidence of systemic infection. She was felt safe to 
discharge home with close follow-up.

TRANSITIONAL ISSUES:
==================== 
-Follow-up final pleural fluid culture and blood cultures

ACUTE/ACTIVE ISSUES:
====================
#R pleural effusion
#Pleural fluid cx with GPC 1 colony on 1 plate 
Pt noted to have loculated R pleural effusion on CT A/P as part 
of her breast cancer workup and recommended by her oncologist to 
present to ED for drainage. Now s/p R thoracentesis of 800cc on 
___ in the ED, called back for admission given GPC noted on  
pleural fluid culture. Repeat CXR w/ concern for possible 
R-sided PNA. Effusion exudative by Light's criteria. Ddx 
includes malignancy vs lymphatic obstruction vs infection. 
Lymphocyte predominance on fluid studies more suggestive of 
malignancy. Less likely infectious given low PMNs, normal 
glucose, normal gram
stain. GPCs ultimately speciated out to coagulase-negative 
Staphylococcus only growing 1 colony on 1 plate. With no other 
evidence of systemic infection including no fever/chills or 
white count this is felt to most likely represent a contaminant 
not requiring antibiotic treatment. 

#Metastatic breast cancer
Recent diagnosis - established care with Dr. ___ at ___ 
___ on ___. Low ER/PR positive, HER2 negative - felt 
effectively to be triple negative. Pathology report currently 
pending. Awaiting MRI spine to better characterize possible bony
met. Oncologist planning on getting biopsy of metastatic site in 
order to confirm triple-negative, with chemotherapy plan pending 
this. Oncologist also looking into clinical trials at ___. 
Conversation surrounding prognosis thus far per oncology note is 
that disease is considered incurable at this time, treatment is 
with palliative intent with possible partial remission with 
prognosis of many months to possible years. Primary team touch 
base with oncology team prior to patient's discharge from 
hospital. They will arrange for follow-up upon her leaving the 
hospital.

CHRONIC/STABLE ISSUES:
====================
#HTN
Continued home HCTZ 25mg daily, valsartan 160mg daily 

#HLD
Continued home simvastatin 10mg qPM

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Hydrochlorothiazide 25 mg PO DAILY 
2. Valsartan 160 mg PO DAILY 
3. Simvastatin 10 mg PO QPM 
4. Famotidine 40 mg PO DAILY:PRN GERD 

 
Discharge Medications:
1.  Famotidine 40 mg PO DAILY:PRN GERD  
2.  Hydrochlorothiazide 25 mg PO DAILY  
3.  Simvastatin 10 mg PO QPM  
4.  Valsartan 160 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
Pleural Effusion
Metastatic Breast Cancer
HTN
HLD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear MS. ___,

It was a privilege taking care of you at ___ 
___.  

WHY WAS I ADMITTED TO THE HOSPITAL?
===================================
-You are admitted to the hospital because there was concern that 
there was infection in the fluid that they drained from your 
lung recently

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
==========================================
-You received 1 dose of antibiotics in the emergency department 
to treat this possible infection.  
-The bacteria that was seen growing in the fluid from your lungs 
came back from the lab consistent with most likely a 
contamination from the needle passing through you skin and not a 
true infection
–You are not having any fevers, were feeling well, and your labs 
did not show any evidence of ongoing infection so were felt safe 
to go home

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?
============================================  
- Please continue to take all your medications and follow up 
with your doctors at your ___ appointments.  

We wish you all the best!

Sincerely,  
Your ___ Care Team  

 
Followup Instructions:
___